US07259175B2
{2-Methyl-4-[4-phenethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethylsulfanyl]-phenoxy}-acetic acid ethyl ester
To a solution of 5-chloromethyl-4-phenethyl-2-(4-trifluoromethyl-phenyl)-thiazole (190 mg, 0.5 mmol) and (4-Mercapto-2-methyl-phenoxy)-acetic acid ethyl ester (100 mg, 0.44 mmol) in acetonitrile (3 mL) is added Cs2CO3 (325 mg, 1 mmol). The mixture is stirred at room temperature over night, quenched by water, extracted with ethyl acetate, dried over sodium sulfate. Column chromatography on silica gel of the crude product gave 210 mg (83.5% yield) of the title compound.

reactant | 5-chloromethyl-4-phenethyl-2-(4-trifluoromethyl-phenyl)-thiazole | 0.5 mmol, 190 mg | ClCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCC1=CC=CC=C1 | C19H15ClF3NS
reactant | (4-Mercapto-2-methyl-phenoxy)-acetic acid ethyl ester | 0.44 mmol, 100 mg | C(C)OC(COC1=C(C=C(C=C1)S)C)=O | C11H14O3S
reactant | Cs2CO3 | 1 mmol, 325 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | {2-Methyl-4-[4-phenethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethylsulfanyl]-phenoxy}-acetic acid ethyl ester | 210 mg, 83.5% yield | C(C)OC(COC1=C(C=C(C=C1)SCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCC1=CC=CC=C1)C)=O | C30H28F3NO3S2
